US08067426B2
Intermediate 20: 9-[3-(1-Azetidinyl)propyl]-2-(butyloxy)-8-(methyloxy)-9H-purin-6-amine
2-(Butyloxy)-8-(methyloxy)-1H-purin-6-amine trifluoroacetate (100 mg, 0.285 mmol) was dissolved in DMF (1 ml) and potassium carbonate (98 mg, 0.712 mmol) was added. The reaction mixture was stirred at 50° C. under nitrogen for 1 hour and then cooled to room temperature. 1,3-Dibromopropane (0.029 ml, 0.285 mmol) was added and after stirring for a further 40 mins. azetidine (0.038 ml, 0.569 mmol) and triethylamine (0.079 ml, 0.569 mmol) in DMF (1 ml) were added. The reaction mixture was then stirred for a further 18 hours. The solvent was removed and the residue was partitioned between dichloromethane (2 ml) and water (2 ml). The layers were separated using a hydrophobic frit and the aqueous phase was re-extracted with DCM (2 ml). The combined organic extracts were concentrated and the residue was dissolved in 1:1 MeOH:DMSO (1 ml) and purified by MDAP (Method A). The product containing fractions were evaporated under a stream of nitrogen to give the title compound as a white solid (13 mg).

reactant | 2-(Butyloxy)-8-(methyloxy)-1H-purin-6-amine trifluoroacetate | 0.285 mmol, 100 mg | FC(C(=O)O)(F)F.C(CCC)OC=1NC(=C2N=C(N=C2N1)OC)N
reactant | potassium carbonate | 0.712 mmol, 98 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,3-Dibromopropane | 0.285 mmol, 0.029 ml | BrCCCBr | C3H6Br2
reactant | azetidine | 0.569 mmol, 0.038 ml | N1CCC1 | C3H7N
reactant | triethylamine | 0.569 mmol, 0.079 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 9-[3-(1-Azetidinyl)propyl]-2-(butyloxy)-8-(methyloxy)-9H-purin-6-amine | 13 mg | N1(CCC1)CCCN1C2=NC(=NC(=C2N=C1OC)N)OCCCC | C16H26N6O2
